US06310095B1
N-tert-Butoxycarbonyl-S-difluoromethylhomocysteine, Methyl Ester
To a solution of N-tert-butoxycarbonyl-S-difluoromethylhomocysteine in diethyl ether (1 mL) was added a solution of diazomethane in ether until a faint yellow color persisted. The excess reagent was quenched by addition of glacial acetic acid, and the reaction was concentrated. The residue was purified by silica gel chromatography eluting with 20% EtOAc/hexane to afford a colorless oil (400 mg).

reactant | N-tert-butoxycarbonyl-S-difluoromethylhomocysteine | C(C)(C)(C)OC(=O)N[C@@H](CCSC(F)F)C(=O)O | C10H17F2NO4S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | diethyl ether | 1 mL | C(C)OCC | C4H10O
solvent | ether | CCOCC | C4H10O
product | N-tert-Butoxycarbonyl-S-difluoromethylhomocysteine, Methyl Ester | 400 mg | C(C)(C)(C)OC(=O)N[C@@H](CCSC(F)F)C(=O)OC | C11H19F2NO4S
